US07696352B2
To a suspension of 1-(5-bromopyridin-2-yl)-1H-imidazole-4-carbaldehyde (730 mg, 2.90 mmol) in MeOH (10 mL) at room temperature was added NaBH4 (134 mg, 3.53 mmol). The mixture was stirred for 30 min, during which time the suspension became clear. The solvent was removed in vacuo. The residue was partitioned between H2O and EtOAc. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (1-(5-bromopyridin-2-yl)-1H-imidazol-4-yl)methanol as a solid (520 mg).

reactant | 1-(5-bromopyridin-2-yl)-1H-imidazole-4-carbaldehyde | 2.90 mmol, 730 mg | BrC=1C=CC(=NC1)N1C=NC(=C1)C=O | C9H6BrN3O
reactant | NaBH4 | 3.53 mmol, 134 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (1-(5-bromopyridin-2-yl)-1H-imidazol-4-yl)methanol | 520 mg | BrC=1C=CC(=NC1)N1C=NC(=C1)CO | C9H8BrN3O
